US06294527B1
Preparation 1: Preparation of 2-mercapto-7-methoxy-4-oxo-4H-1-benzothiopyran
In accordance with the process disclosed in Aust. J. Chem. 40, 1179 (1987), the mixture of 2-fluoro-4-methoxyacetophenone (3 g, 22.73 mmol), N,N-dimethylformamide (25 ml), benzene (17.5 ml) and carbon disulfide (3.78 g, 50.01 mmol) was stirred and added with 55% sodium hydride (2.42 g, 55.47 mmol) over about 2.5 hours while inner temperature was maintained at 15-20° C. After additional stirring for 30 minutes, the reaction mixture was added with methanol (0.5 ml) and further stirred for 15 minutes. Benzene was removed under heating to increase inner temperature up to 125-130° C.; at that temperature range, the mixture was heated for 45 minutes and was allowed to cool to room temperature. The reaction mixture was added with water (80 ml) and acetic acid (2.5 ml) and extracted with ether (50 ml×2 times); water layer was filtered out and acidified with concentrated hydrochloric acid. The resulting precipitates were collected by filteration and were recrystallized from methanol-1,2-dichloroethane (1:1) to obtain 3.8 g (yield: 75%) of the titled compound.

reactant | 2-fluoro-4-methoxyacetophenone | 22.73 mmol, 3 g | CC(=O)C1=C(C=C(C=C1)OC)F | C9H9FO2
reactant | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
reactant | carbon disulfide | 50.01 mmol, 3.78 g | C(=S)=S | CS2
reactant | sodium hydride | 55.47 mmol, 2.42 g | [H-].[Na+]
solvent | methanol | 0.5 ml | CO | CH4O
solvent | benzene | 17.5 ml | C1=CC=CC=C1 | C6H6
product | 2-mercapto-7-methoxy-4-oxo-4H-1-benzothiopyran | 3.8 g, yield: 75% | SC=1SC2=C(C(C1)=O)C=CC(=C2)OC | C10H8O2S2
